Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
Pertinent studies and discharge labs:

___ 12:00AM BLOOD WBC-7.9 RBC-1.99* Hgb-6.8* Hct-20.8* 
MCV-105* MCH-34.2* MCHC-32.7 RDW-20.1* RDWSD-75.0* Plt Ct-36*
___ 12:00AM BLOOD Plt Ct-36*
___ 12:00AM BLOOD Glucose-152* UreaN-12 Creat-0.7 Na-131* 
K-3.7 Cl-97 HCO3-23 AnGap-11
___ 12:00AM BLOOD ALT-20 AST-21 AlkPhos-63 TotBili-<0.2
___ 12:00AM BLOOD Calcium-7.6* Phos-2.7 Mg-1.6
___ 12:00AM BLOOD tacroFK-<2.0*
___ 01:40PM URINE RBC-4* WBC-7* Bacteri-FEW* Yeast-NONE 
Epi-0 TransE-<1
___ 01:40PM URINE Blood-NEG Nitrite-NEG Protein-50* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NORMAL pH-6.0 
Leuks-NEG

___ 1:40 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   FECAL CULTURE - R/O VIBRIO (Final ___:    NO VIBRIO 
FOUND. 

   FECAL CULTURE - R/O YERSINIA (Preliminary): 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      No E. coli O157:H7 found. 

 
___ 1:40 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

KUB ___:
FINDINGS:  
  
There are no abnormally dilated loops of large or small bowel. 
There is no free intraperitoneal air. 
Moderate degenerative changes at L5-S1 and inferior sacroiliac 
joints 
bilaterally. 
Round metallic densities projecting in the lower abdomen are 
related to a 
mesh. 
  
IMPRESSION:  
  
No evidence of free intraperitoneal air. 
  
___ CXR:
IMPRESSION:  
  
Comparison to ___.  The patient has received a new 
left-sided 
PICC line.  The course of the line is unremarkable, the tip of 
the line 
projects over the mid SVC.  No complications, notably no 
pneumothorax. 

 
Brief Hospital Course:
Brief summary:  
___ with AML s-p allo ___ complicated by 
refractory
GVHD of the GI, C. difficile colitis, CMV viremia, recent VRE
bacteremia and multifocal fungal pneumonia who presents with
diarrhea and lactic acidosis.  His diarrhea improved with 
supportive care.

Transitional issues:
[ ] Please recheck sodium at 3-day ___.  If continues to 
downtrend without diarrhea/hypovolemia, more likely SIADH ISO 
pulmonary nodules and may need fluid restriction.
[ ] Please recheck CBC, need for RBC transfusion at 3-day 
___
[ ] Overdue for CMV viral load; was supposed to have it ___
[ ] Continue to adjust immunosuppression regimen for GVHD as 
needed
[ ] ___ results of outpatient bronchoscopy

#DIARRHEA
#Lactic Acidosis: 
#Leukocytosis
 Presentation concerning for infectious etiology vs. GI
GVHD flare given recent decrease in immunosuppresive medication
regimen. Patient has long history of GVHD of the GI tract that
has been steroid refractory. Has been on Jakofi 5 mg twice daily
and tacrolimus and prednisone (dose
recently decreased from 10 mg daily to 7.5 mg). He also has a 
history of recurrent C.
difficile colitis.  Stool negative for C. difficile colitis and 
GI PCR negative for other infectious causes as well Patient with 
elevated WBC on
admission, though also noted to be clinically dry in setting of
diarrhea; therefore suspect hemoconcentration.  Bland UA.  
Patient was treated supportively with IV fluids.  His 
immunosuppression was continued: Jakafi 5 mg twice daily and
Tacro 0.5mg qday, pred 7.5mg qday

#RECENT ENTEROCOCCUS BACTEREMIA: Patient was treated on prior
admissions for enterococcus bacteremia with unclear source. 
Could
be gut given GVHD. TTE ___ neg for vegetations. PICC was pulled
and cultured. He was discharged with antibiotics to be 
continued.
- c/w Linezolid ___ IV BID x 6 weeks from first negative blood
culture (D1: ___
- will f/u with ID outpatient ___

#RECENT MULTIFOCAL PNEUMONIA AND CAVITARY PULMONARY NODULES:
Patient is currently being treated with isavuconazole given c/f
aspergillus. Recent BAL ___ growing mold (described as a
contaminant but ID concerned about true mold infection). Repeat
chest CT ___ showed complete resolution of multifocal
pneumonia. Chest CT also shows short interval density and mild
size increase in multiple bilateral peribronchovascular solid
and cavitating nodules as well as appearance of a new nodule in
the
left lower lobe with concern for lung involvement from primary
disease. However last admission w increase in serum aspergillis
prompting repeating Chest CT which showed increased size of
pulmonary
nodules. s/p bronch ___ with biopsies, path pending
-Continued isavuconazole

#AML s/p allogeneic MRD HSCT (Day 0 = ___:
#THROMBOYCTOPENIA:
AML initially with favorable mutational profile (normal
karyotype; FLT3 negative, NPM1 positive, IDH2 positive, RAD21
positive, CEBPA negative). He relapsed after chemo-consolidation
(7+3, 3C HIDAC & MEC/Revlimid) then underwent an MRD allogeneic
SCT as above. In remission following his transplant with slow
count recovery most likely due to valganciclovir. BMBX during
recent admission showed no evidence of recurrence w/ 100%
chimerism. 
-Continued Tacrolimus 0.5mg qday
-Continued ruxolitinib 5mg PO BID
-prednisone tapered to 7.5mg ___
-Continued ACV
-Continued Bactrim SS PO QD

#HYPONATREMIA: noted for Na 133 on admission. Possibly component
of hypovolemic hyponatremia in setting of diarrhea versus SIADH 
ISO pulmonary nodules.  Down trended to 131 after IV fluid 
resuscitation.

#CMV VIREMIA: History of CMV viremia with positive viral load
___ (peak 2.2log), and he completed course of
valganciclovir last admission. CMV VL ND since ___ and was
changed ACV at time of DC last admission. ___ CMV VL 
negative

#Macrocytic anemia:
B12 and folate ok during previous admission.  Monitored and 
transfuse for Hgb less than 7

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q8H 
2. PredniSONE 7.5 mg PO DAILY 
3. Linezolid ___ mg IV Q12H 
4. Budesonide 3 mg PO TID 
5. FoLIC Acid 1 mg PO DAILY 
6. LORazepam 1 mg PO BID: PRN anxiety 
7. Pantoprazole 40 mg PO Q12H 
8. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
9. Tacrolimus 0.5 mg PO DAILY 
10. Vitamin D ___ UNIT PO 1X/WEEK (WE) 
11. Magnesium Oxide 800 mg PO BID 
12. Isavuconazonium Sulfate 372 mg PO DAILY 
13. Ruxolitinib 5 mg PO BID 

 
Discharge Medications:
1.  Acyclovir 400 mg PO Q8H  
2.  Budesonide 3 mg PO TID  
3.  FoLIC Acid 1 mg PO DAILY  
4.  Isavuconazonium Sulfate 372 mg PO DAILY  
5.  Linezolid ___ mg IV Q12H  
6.  LORazepam 1 mg PO BID: PRN anxiety  
7.  Magnesium Oxide 800 mg PO BID  
8.  Pantoprazole 40 mg PO Q12H  
9.  PredniSONE 7.5 mg PO DAILY  
10.  Ruxolitinib 5 mg PO BID  
11.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  
12.  Tacrolimus 0.5 mg PO DAILY  
13.  Vitamin D ___ UNIT PO 1X/WEEK (WE)  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Graft-versus-host disease of the gastrointestinal tract

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

Why you are admitted to the hospital?
-For severe diarrhea and abdominal pain

What happened when you are in the hospital?
-Your stool was analyzed for any signs of infection
-You were given fluids to treat her dehydration

Which do you when you go home?
-Please continue to take her immunosuppression medicines: 
Tacrolimus, prednisone, Jakofi
-If you were to develop worsening abdominal pain or diarrhea 
please contact your doctor ___ you feel dizzy or lightheaded and dehydrated, please contact 
your doctor ___ with hematology oncology this ___ or 
___, as we need to monitor your blood counts

It was a pleasure to participate in your care,

___ medicine
 
Followup Instructions:
___